US07579368B2
To a solution of 4-chloro-2-ethoxy-benzoic acid ethyl ester (1.46 g, 6.4 mmol) in 13 mL of water and methylene chloride (1:1 mixture) was added bromine (360 uL, 7 mmol). The reaction was stirred for three days. The organic layer was separated. It was washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. Purification of the crude residue by flash column chromatography (silica gel, eluting with a gradient of ethyl acetate in hexanes) gave 5-bromo-4-chloro-2-ethoxy-benzoic acid ethyl ester (1.26 g, 64%). LC-MS: 307.1 [(M+H)+].

reactant | 4-chloro-2-ethoxy-benzoic acid ethyl ester | 6.4 mmol, 1.46 g | C(C)OC(C1=C(C=C(C=C1)Cl)OCC)=O | C11H13ClO3
reactant | bromine | 7 mmol, 360 uL | BrBr | Br2
solvent | water | 13 mL | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-bromo-4-chloro-2-ethoxy-benzoic acid ethyl ester | 1.26 g, 64% | C(C)OC(C1=C(C=C(C(=C1)Br)Cl)OCC)=O | C11H12BrClO3
